US03941826
4-Chloro-2-isopropyl-5-isobutylbenzenethiol was prepared using the procedure of Example 2B except that 4-chloro-2-isopropyl-5-isobutylbenzenesulfonyl chloride was substituted for the 4-bromo-2,5-di-sec-butylbenzenesulfonyl chloride. The resulting product had a boiling point of 77°C at 0.1 mm Hg.

reactant | 4-chloro-2-isopropyl-5-isobutylbenzenesulfonyl chloride | ClC1=CC(=C(C=C1CC(C)C)S(=O)(=O)Cl)C(C)C | C13H18Cl2O2S
reactant | 4-bromo-2,5-di-sec-butylbenzenesulfonyl chloride | BrC1=CC(=C(C=C1C(C)CC)S(=O)(=O)Cl)C(C)CC | C14H20BrClO2S
product | 4-Chloro-2-isopropyl-5-isobutylbenzenethiol | ClC1=CC(=C(C=C1CC(C)C)S)C(C)C | C13H19ClS
